US08017626B2
Method 28: 2-(7-Ethyl-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid
To a stirred solution of methyl 2-(4-hydroxy-1-methyl-2-oxo-7-(2-(trimethylsilyl)ethynyl)-1,2-dihydroquinoline-3-carboxamido)acetate (0.59 g, 1.5 mmol) in N,N-dimethylformamide (5.0 mL, 1.5 mmol) and methanol (1.0 mL, 1.5 mmol) was added cesium fluoride (0.23 g, 1.5 mmol) under nitrogen. After stirring at room temperature for 1 hour, the mixture was concentrated to remove solvents. The resulting solid was adsorbed onto silica and purified using flash chromatography (15-80% EtOAc:Hex gradient) to afford a yellow solid. The solid was suspended in methanol (10 mL) with Pd/C (20 mol %) and exposed to hydrogen from a balloon for 16 h. The crude reaction mixture was filtered through Celite, and the filter pad was washed with dichloromethane (5'10 mL) under argon. The filtrate was concentrated to give a white solid that was further purified on silica by flash chromatography (100% chloroform). The solid was then treated with 5 N aqueous NaOH (3 mL) in THF (3 mL) for 5 hours. The mixture was acidified to pH 1 using 5 N aqueous HCl, and the resulting precipitate was collected by filtration. After washing the solid with water (5×10 mL) and ether (2×10 ml), the desired material was obtained after drying in a vacuum oven overnight at 50° C. (0.21 g, 38% yield, 3 steps).

reactant | methyl 2-(4-hydroxy-1-methyl-2-oxo-7-(2-(trimethylsilyl)ethynyl)-1,2-dihydroquinoline-3-carboxamido)acetate | 1.5 mmol, 0.59 g | OC1=C(C(N(C2=CC(=CC=C12)C#C[Si](C)(C)C)C)=O)C(=O)NCC(=O)OC | C19H22N2O5Si
reactant | N,N-dimethylformamide | 1.5 mmol, 5.0 mL | CN(C=O)C | C3H7NO
reactant | cesium fluoride | 1.5 mmol, 0.23 g | [F-].[Cs+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | 1.5 mmol, 1.0 mL | CO | CH4O
product | 2-(7-Ethyl-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid | 38% yield | C(C)C1=CC=C2C(=C(C(N(C2=C1)C)=O)C(=O)NCC(=O)O)O | C15H16N2O5
